US06812226B2
1-{1-[2-Nitro-4-(phenylcarbonyl)phenyl]piperidin-4-yl}-1,4-dihydro-2H-3,1-benzoxazin-2-one
The title compound was prepared from 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride (0.3 g) and 4-chloro-3-nitrobenzophenone (0.29 g) using the method of example 1. Yield 0.25 g as a solid.

reactant | 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride | 0.3 g | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
reactant | 4-chloro-3-nitrobenzophenone | 0.29 g | ClC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8ClNO3
product | 1-{1-[2-Nitro-4-(phenylcarbonyl)phenyl]piperidin-4-yl}-1,4-dihydro-2H-3,1-benzoxazin-2-one | [N+](=O)([O-])C1=C(C=CC(=C1)C(=O)C1=CC=CC=C1)N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O | C26H23N3O5
